US04302401
A magnetically stirred solution of an equimolar mixture of 93 grams (0.5 moles) of diphenyl phosphine and 97 g (0.5 moles) of 1,13-tetradecadiene in a closed cylindrical quartz tube was irradiated from about 3 cm distance with two 75 Watt Hanau tube immersion lamps with a wide spectrum of ultraviolet radiation, in a 15° C. water bath for 28 hours. A subsequent nmr analysis indicated a partial disappearance of the double bond due to the diphenyl phosphine addition. The resulting reaction mixture was fractionally distilled to recover the unreacted tetradecadiene and diphenyl phosphine and to obtain 70 g (35%) of 13-tetradecenyl diphenyl phosphine monoadduct as a clear colorless liquid distillate of bp. 185°-190° C. at 0.05 mm. The terminal olefinic unsaturation was clearly indicated by the nmr pattern of the vinylic portions of the distillate product. Anal. Calcd. for C26H37P; C, 82.06; H, 9.80; P, 8.14 Found: C, 82.02, H, 9.60; P, 8.32.

reactant | diphenyl phosphine | 0.5 moles, 93 grams | C1(=CC=CC=C1)PC1=CC=CC=C1 | C12H11P
reactant | 1,13-tetradecadiene | 0.5 moles, 97 g | C=CCCCCCCCCCCC=C | C14H26
product | 13-tetradecenyl diphenyl phosphine | 70 g, 35% | C(CCCCCCCCCCCC=C)P(C1=CC=CC=C1)C1=CC=CC=C1 | C26H37P
